US07307088B2
Step A: Preparation of 2-[(2-methoxy-pyridin-4-ylmethyl)-amino]-benzoic acid
A mixture of anthranilic acid (1.37 g, 1.0 mmol), 2-methoxy-pyridine-4-carbaldehyde (1.37 g, 1.0 mmol), and p-toluenesulfonic acid mohohydrate (0.025 g, 0.13 mmol) in 30 mL of anhydrous toluene was stirred at reflux for 1 h, cooled to RT, and NaBH4 (0.9 g) was added. The mixture was stirred at RT for 30 min, and quenched with MeOH. The volatiles were removed under reduced pressure, and the residue was taken up in water. AcOH was added to bring pH to 4, and the mixture was extracted with EtOAc. The combined organic portions were washed with brine, dried over MgSO4, filtered, and condensed. The residue was purified by flash column chromatography to give the titled compound. MS (ES+): 259.0 (M+H)+. Calc'd for C14H12N2O3-258.10.

reactant | anthranilic acid | 1.0 mmol, 1.37 g | C(C=1C(N)=CC=CC1)(=O)O | C7H7NO2
reactant | 2-methoxy-pyridine-4-carbaldehyde | 1.0 mmol, 1.37 g | COC1=NC=CC(=C1)C=O | C7H7NO2
reactant | p-toluenesulfonic acid | 0.13 mmol, 0.025 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | NaBH4 | 0.9 g | [BH4-].[Na+]
solvent | toluene | 30 mL | C1(=CC=CC=C1)C | C7H8
product | 2-[(2-methoxy-pyridin-4-ylmethyl)-amino]-benzoic acid | COC1=NC=CC(=C1)CNC1=C(C(=O)O)C=CC=C1 | C14H14N2O3
